US06239147B1
(ii) 2-(2-(2-Bromo-5-methoxyphenyl)ethoxy)tetrahydropyran
To a stirred mixture of 2-(2-bromo-5-methoxyphenyl)ethanol (1.5 g, 6.5 mmol) and dihydropyran (13.0 mmol) in dry dichloromethane (30 ml) was added camphor sulfonic acid (0.3 mmol) under nitrogen at 0° C. for 1 hour. The reaction mixture was quenched with saturated sodium bicarbonate solution, and extracted with dichloromethane. The organic extracts were washed with brine, dried over magnesium sulfate, and concentrated to give a crude product. This was purified by silica-gel column chromatography eluted with a mixed solvent of hexane and ethyl acetate (20:1) to give the title compound (2.05 g, quantitative). 1H-NMR (CDCl3): 7.40 (d, J=8.8 Hz, 1H), 6.86 (d, J=2.9 Hz, 1H), 6.65 (dd, J=8.8, 2.9 Hz, 1H), 4.63-4.60 (m, 1H), 3.99-3.90 (m, 1H), 3.82-3.74 (m, 1H), 3.78 (s, 3H), 3.68-3.59 (m, 1H), 3.50-3.45 (m, 1H), 3.02 (t, J=7.0 Hz, 2H), 1.83-1.52 (m, 6H).

reactant | 2-(2-bromo-5-methoxyphenyl)ethanol | 6.5 mmol, 1.5 g | BrC1=C(C=C(C=C1)OC)CCO | C9H11BrO2
reactant | dihydropyran | 13.0 mmol | O1CCCC=C1 | C5H8O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
catalyst | camphor sulfonic acid | 0.3 mmol | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
product | 2-(2-(2-Bromo-5-methoxyphenyl)ethoxy)tetrahydropyran | 2.05 g | BrC1=C(C=C(C=C1)OC)CCOC1OCCCC1 | C14H19BrO3
